US08957203B2
A solution of 6-methoxy-3-morpholinoisoquinolin-1-ol (315 mg, 1.210 mmol) in POCl3 (1692 μl, 18.15 mmol) was refluxed for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in Hexanes as eluent. The product fractions were collected and the solvent removed under vacuum to give 4-(1-chloro-6-methoxyisoquinolin-3-yl)morpholine (323 mg, 95% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.01 (d, J=9.3 Hz, 1H), 6.97 (dd, J=9.3, 2.5 Hz, 1H), 6.86 (d, J=2.5 Hz, 1H), 6.59 (s, 1H), 3.92 (s, 3H), 3.90-3.85 (m, 4H), 3.56-3.50 (m, 4H); MS: MS m/z 279.1 (M++1).

reactant | 6-methoxy-3-morpholinoisoquinolin-1-ol | 1.210 mmol, 315 mg | COC=1C=C2C=C(N=C(C2=CC1)O)N1CCOCC1 | C14H16N2O3
reactant | POCl3 | 18.15 mmol, 1692 μl | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(1-chloro-6-methoxyisoquinolin-3-yl)morpholine | 323 mg, 95% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)N1CCOCC1 | C14H15ClN2O2
